US07273865B2
A stirred suspension of 600 mg (1.23 mmol) 1-benzoyl-3-(3-iodo-5-methoxy-2-phenyl-pyridin-4-yl)-thiourea, 23 mg (0.12 mmol)-copper(I) iodide, 44 mg (0.25 mmol) 1,10-phenanthroline and 799 mg (2.45 mmol) cesium carbonate in 4 ml toluene was heated at 130° C. for 2×5 min in a microwave oven. The resulting mixture was then cooled to room temperature and diluted with tetrahydrofuran, stirred and filtered. The filter cake was washed with tetrahydrofuran and the combined filtrate and washings were concentrated in vacuo. Flash chromatography (ethyl acetate/heptane) afforded 361 mg (81%) N-(7-methoxy-4-phenyl-thiazolo[5,4-c]pyridin-2-yl)-benzamide as a white solid. ES-MS m/e (%): 362 (M+H+, 100).

reactant | 1-benzoyl-3-(3-iodo-5-methoxy-2-phenyl-pyridin-4-yl)-thiourea | 1.23 mmol, 600 mg | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(C(=NC=C1OC)C1=CC=CC=C1)I | C20H16IN3O2S
reactant | 1,10-phenanthroline | 0.25 mmol, 44 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | cesium carbonate | 2.45 mmol, 799 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | copper(I) iodide | [Cu]I
product | N-(7-methoxy-4-phenyl-thiazolo[5,4-c]pyridin-2-yl)-benzamide | 361 mg, 81% | COC=1C2=C(C(=NC1)C1=CC=CC=C1)SC(=N2)NC(C2=CC=CC=C2)=O | C20H15N3O2S
